US06359162B1
2-Amino-4-(hydroxymethylphosphinyl)butyric acid, ammonium salt
At room temperature, 5.61 g (0.10 mol) of freshly distilled acrolein are added to 10.21 g (0.10 mol) of acetic anhydride. At 25 to 30° C., this mixture is subsequently added dropwise to 16.41 g (0.10 mol) of dibutyl methanephosphonate and 14.8 g (0.2 mol) of n-butanol. The mixture is stirred at 30° C. for 2 hours and then, at 25 to 28° C., added dropwise to a solution of 4.9 g (0.10 mol) of sodium cyanide and 10.7 g (0.20 mol) of ammonium chloride in 50 ml of ammonia (25% strength). After 2 hours at 30° C., the crude aminonitrile is added dropwise to 200 ml of hydrochloric acid (37% strength). The mixture is subsequently heated under reflux for 2 hours, while ethanol and acetic acid are distilled off. The mixture is concentrated using a rotary evaporator, a pH of approximately 9 is set using ammonia solution and the product is purified by crystallization from methanol. This gives 17.8 g (90% of theory) of 2-amino-4-(hydroxymethylphosphinyl)-butyric acid, ammonium salt.

reactant | acrolein | C(=O)C=C | C3H4O
reactant | acetic anhydride | 0.10 mol, 10.21 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | dibutyl methanephosphonate | 0.10 mol, 16.41 g | CP(OCCCC)(=O)OCCCC | C9H21O3P
reactant | n-butanol | 0.2 mol, 14.8 g | C(CCC)O | C4H10O
reactant | sodium cyanide | 0.10 mol, 4.9 g | [C-]#N.[Na+]
reactant | ammonium chloride | 0.20 mol, 10.7 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | ammonia | 50 ml | N | H3N
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-(hydroxymethylphosphinyl)butyric acid, ammonium salt | [NH4+].NC(C(=O)[O-])CCP(=O)CO | InChI=1S/C5H12NO4P.H3N/c6-4(5(8)9)1-2-11(10)3-7;/h4,7,11H,1-3,6H2,(H,8,9);1H3
